US07691882B2
5-(2-Nitro-ethyl)-2-phenylsulfanyl-pyridine
To an acetic acid (10 mL) solution of 6-phenylsulfanyl-pyridine-3-carbaldehyde (583 mg, 2.71 mmol) described in Manufacturing Example 97-1-2 were added nitromethane (734 μL, 13.6 mmol) and ammonium acetate (418 mg, 5.42 mmol), and which was stirred for 4 hours 35 minutes at 100° C. under nitrogen atmosphere. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. To a dimethyl sulfoxide (10 mL) and acetic acid (1 mL) solution of the residue was added sodium borohydride (205 mg, 5.42 mmol), which was stirred for 55 minutes at room temperature. Sodium hydrogencarbonate and water were added to the reaction mixture at room temperature while cooling appropriately, which was then extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (212 mg, 30%).

reactant | 6-phenylsulfanyl-pyridine-3-carbaldehyde | 2.71 mmol, 583 mg | C1(=CC=CC=C1)SC1=CC=C(C=N1)C=O | C12H9NOS
reactant | nitromethane | 13.6 mmol, 734 μL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 5.42 mmol, 418 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 5.42 mmol, 205 mg | [BH4-].[Na+]
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 5-(2-Nitro-ethyl)-2-phenylsulfanyl-pyridine | 212 mg, 30% | [N+](=O)([O-])CCC=1C=CC(=NC1)SC1=CC=CC=C1 | C13H12N2O2S
